OpenCircuit factory test: 2N3906 DC gain
* OpenCircuit Model Factory v0.1.0
* Original work generated from public factual specifications.
* This model is not a copy of, or adaptation from, any vendor SPICE model.
* Source: https://www.onsemi.com/pub/Collateral/2N3906-D.PDF
* Revision: Rev. 4, February 2010
* Fit: native ngspice-46 in scipy.optimize.least_squares, diff_step=1e-4
.model OC_ONSEMI_2N3906 PNP(IS=1.4835710503e-14 NF=1.0000000000e0 BF=6.3313975569e2 IKF=3.0356554704e-2 ISE=7.7401300644e-14 NE=1.3849978060e0 VAF=1.0000000000e2 BR=4.0000000000e0 RB=5.7152212589e0 RE=1.0000001166e-4 RC=3.2182964551e0 CJE=1.1836139835e-11 VJE=7.5000000000e-1 MJE=3.3000000000e-1 CJC=8.8131809209e-12 VJC=7.5000000000e-1 MJC=3.3000000000e-1 XCJC=1.0000000000e0 TF=5.5520203140e-10 TR=0 FC=0.5 EG=1.11 XTI=3 TNOM=27)

.temp 25
VCG1 cg1 0 DC -1.0000000000e0
IBG1 0 bg1 DC -9.0909090909e-7
QG1 cg1 bg1 0 OC_ONSEMI_2N3906
VCG2 cg2 0 DC -1.0000000000e0
IBG2 0 bg2 DC -5.8823529412e-6
QG2 cg2 bg2 0 OC_ONSEMI_2N3906
VCG3 cg3 0 DC -1.0000000000e0
IBG3 0 bg3 DC -4.5454545455e-5
QG3 cg3 bg3 0 OC_ONSEMI_2N3906
VCG4 cg4 0 DC -1.0000000000e0
IBG4 0 bg4 DC -3.3333333333e-4
QG4 cg4 bg4 0 OC_ONSEMI_2N3906
VCG5 cg5 0 DC -1.0000000000e0
IBG5 0 bg5 DC -1.0526315789e-3
QG5 cg5 bg5 0 OC_ONSEMI_2N3906
.op
.end
